US20010009912A1
A solution of 3.6 g (4-oxo-cyclohexyl)-acetic acid ethyl ester and 8 g (tert.-butoxycarbonylmethylene)-triphenylphosphorane (Aldrich GmbH and Co. KG) in 100 ml toluene is heated for 40 hours under reflux. Subsequently the toluene is removed in a vacuum and the product is purified by column chromatography (ethyl acetate/isohexane 1/10). The (4-ethoxycarbonylmethyl-cyclohexylidene)-acetic acid tert.-butyl ester (2.7 g) obtained in this way is dissolved in 40 ml tetrahydrofuran, admixed with 300 mg 10 percent palladium/carbon and hydrogenated for 20 hours at normal pressure and room temperature. Afterwards the catalyst is removed by filtration, the tetrahydrofuran is removed on a rotary evaporator and the residue (2.8 g) is taken up in 5 ml methylene chloride.

reactant | (4-oxo-cyclohexyl)-acetic acid ethyl ester | 3.6 g | C(C)OC(CC1CCC(CC1)=O)=O | C10H16O3
reactant | (tert.-butoxycarbonylmethylene)-triphenylphosphorane | 8 g | C(C)(C)(C)OC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H25O2P
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (4-ethoxycarbonylmethyl-cyclohexylidene)-acetic acid tert.-butyl ester | 2.7 g | C(C)(C)(C)OC(C=C1CCC(CC1)CC(=O)OCC)=O | C16H26O4
